US09447046B2
Preparation 158a: [4-(methylamino)phenyl]methanol
To a solution of methyl 4-(methylamino)benzoate (2.0 g, 12.1 mmol) in THF (30 mL) was added LAH (6.1 mL, 2.4 M in THF, 14.5 mmol) at 0° C. The reaction was stirred at r.t. for 2 h. The reaction was quenched with EtOAc (50 mL) and water (2 mL). The mixture was dried (Na2SO4) and concentrated. Purification by silica gel chromatography (PE:EtOAc=3:1) gave 1.0 g (60%) of the title compound as a yellow oil. [M+H] Calc'd for C8H11NO, 138. Found 138.

reactant | methyl 4-(methylamino)benzoate | 12.1 mmol, 2.0 g | CNC1=CC=C(C(=O)OC)C=C1 | C9H11NO2
reactant | LAH | 14.5 mmol, 2.4 M, 6.1 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | [4-(methylamino)phenyl]methanol | 1.0 g, 60% | CNC1=CC=C(C=C1)CO | C8H11NO
